US04116962
To a solution of L-proline (5.75 g.) in N sodium hydroxide (50 ml.) chilled in an ice bath, 2N sodium hydroxide (25 ml.) and 2-bromo-3-methoxybutyric acid chloride [obtaind from 2-bromo-3-methoxybutyric acid [J. Am. Chem. Soc., 71, 1096, (1949)] and thionyl chloride] (10.7 g.) are added, with vigorous stirring. After three hours, thiobenzoic acid (7.5 g.) and potassium carbonate (4.8 g.) are added and the mixture is stirred at room temperature overnight. The reaction mixture is acidified and extracted with ethyl acetate. The organic layer is concentrated to dryness and the residue is chromatographed on a column of silica gel with benzene-acetic acid to yield 1-[2-benzoylthio-3-methoxybutanoyl]-L-proline.

reactant | L-proline | 5.75 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 2-bromo-3-methoxybutyric acid chloride | 10.7 g | BrC(C(=O)Cl)C(C)OC | C5H8BrClO2
reactant | thiobenzoic acid | 7.5 g | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | potassium carbonate | 4.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | sodium hydroxide | 2N, 25 ml | [OH-].[Na+]
product | 1-[2-benzoylthio-3-methoxybutanoyl]-L-proline | C(C1=CC=CC=C1)(=O)SC(C(=O)N1[C@H](C(=O)O)CCC1)C(C)OC | C17H21NO5S
